US04419357
Hydrogenation of 10 g of 4,5-methylenedioxy-2-nitro-N-(1H-tetrazol-5-yl)benzamide in 40 ml of aqueous 1N sodium hydroxide solution and 160 ml of water and using 1 g of 10% Pd/C gave 2-amino-4,5-methylenedioxy-N-(1H-tetrazol-5-yl)benzamide as brown needles melting at about 255° C. (dec) after recrystallization from a mixture of dimethylformamide and water.

reactant | 4,5-methylenedioxy-2-nitro-N-(1H-tetrazol-5-yl)benzamide | 10 g | C1OC2=CC(=C(C(=O)NC3=NN=NN3)C=C2O1)[N+](=O)[O-] | C9H6N6O5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
catalyst | Pd/C | 1 g | [Pd] | Pd
solvent | water | 160 ml | O | H2O
product | 2-amino-4,5-methylenedioxy-N-(1H-tetrazol-5-yl)benzamide | NC1=C(C(=O)NC2=NN=NN2)C=C2C(=C1)OCO2 | C9H8N6O3
